US07402595B2
1-[4-(3-acetyl-6-bromo-1-oxo-4-phenyl-1H-isoquinolin-2-ylmethyl)benzoyl]piperidine-4-carboxylic acid ethyl ester
In the same manner as in Example 423, the title compound was synthesized from 4-(3-acetyl-6-bromo-1-oxo-4-phenyl-1H-isoquinolin-2-ylmethyl)benzoic acid and piperidine-4-carboxylic acid ethyl ester.

reactant | 4-(3-acetyl-6-bromo-1-oxo-4-phenyl-1H-isoquinolin-2-ylmethyl)benzoic acid | C(C)(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C(=O)O)C=C1 | C25H18BrNO4
reactant | piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCNCC1 | C8H15NO2
product | 1-[4-(3-acetyl-6-bromo-1-oxo-4-phenyl-1H-isoquinolin-2-ylmethyl)benzoyl]piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)C(C1=CC=C(C=C1)CN1C(C2=CC=C(C=C2C(=C1C(C)=O)C1=CC=CC=C1)Br)=O)=O | C33H31BrN2O5
